US05091401
5.4 g of sodium methylate are added to a solution of 17.8 g (0.0503 mol) of 1,2-dichloro-1-(1,2,4-triazol-1-yl)-2-(2-fluorophenyl)-2-(4-fluorophenyl)-ethane in 125 ml of methanol. After the reaction mixture has been refluxed for one hour, 100 ml of water are added to the solution, which is then extracted several times by shaking with methyl tert-butyl ether. The organic phase isolated is washed twice with water, dried over sodium sulfate and evaporated down, 15.5 g (97%) of 1-chloro-1-(1,2,4-triazol-1-yl)-2-(2-fluorophenyl)-2-(4-fluorophenyl)-ethane being obtained as a 1:1 E/Z mixture.

reactant | sodium methylate | 5.4 g | C[O-].[Na+]
reactant | 1,2-dichloro-1-(1,2,4-triazol-1-yl)-2-(2-fluorophenyl)-2-(4-fluorophenyl)-ethane | 0.0503 mol, 17.8 g | ClC(C(C1=CC=C(C=C1)F)(C1=C(C=CC=C1)F)Cl)N1N=CN=C1 | C16H11Cl2F2N3
reactant | water | 100 ml | O | H2O
solvent | methanol | 125 ml | CO | CH4O
product | 1-chloro-1-(1,2,4-triazol-1-yl)-2-(2-fluorophenyl)-2-(4-fluorophenyl)-ethane | 15.5 g, 97% | ClC(C(C1=CC=C(C=C1)F)C1=C(C=CC=C1)F)N1N=CN=C1 | C16H12ClF2N3
